US08183271B2
(4′-Trifluoromethylbiphenyl-4-yl)methanol
12.73 ml (12.73 mmol) of a 1 M solution of lithium aluminum hydride in THF are added dropwise to a solution of 6.24 g (21.21 mmol) of ethyl 4′-trifluoromethylbiphenyl-4-carboxylate in 60 ml of dry THF at 0° C. After the reaction is complete, the mixture is mixed with saturated ammonium chloride solution and taken up in ethyl acetate, and the organic phase is separated off and dried over sodium sulfate. After filtration, the solvent is removed in vacuo. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 5:1). 5.1 g (20.21 mmol, 95% of theory) of a colorless solid are obtained.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4′-trifluoromethylbiphenyl-4-carboxylate | 21.21 mmol, 6.24 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)(F)F | C16H13F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4′-Trifluoromethylbiphenyl-4-yl)methanol | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CO)(F)F | C14H11F3O
